2109-03-23 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -renal recs to check aldosterone and renin
   -CSF cx still pending
   -Iron studies normal with high B12
   -PT ambulating
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-3-22**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 66 (66 - 93) bpm
   BP: 162/108(122) {114/67(78) - 187/118(133)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,270 mL
                                                                    120 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    800 mL
   Urine:
                                                                  2,150 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: A/O, comfortable, NAD
   Heart: RRR, II/VI systolic murmur
   Lungs: CTAB
   Abd: Soft, mildly tender to palpation in lower quadrants
   Ext: Radial, DP, PT pules 2+ and equal bilaterally
   Labs / Radiology
   404 K/uL
   10.3 g/dL
   78 mg/dL
   2.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   30.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2109-3-21**]  04:00 AM
                             [**2109-3-22**]  05:00 AM
                             [**2109-3-23**]  04:57 AM
   WBC
   6.8
   6.7
   5.9
   Hct
   29.6
   29.5
   30.1
   Plt
   [**Telephone/Fax (3) 5596**]
   Cr
   2.5
   2.7
   2.6
   Glucose
   104
   86
   78
   Other labs: Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   35 yo F w/ PMH hypertensive urgency and CRI p/w acute on chronic renal
   failure and hypertensive urgency.
   #. Hypertensive urgency: ? HTN emergency w/ possible end organ damage
   Cr 2.9 on admission. EKG not changed from previously. Hx of cocaine
   use, but urine tox was negative. Was initially started on labetalol
   drip in ED and then transferred to ICU and continued on it while PO
   labetalol was up titrated. Labetalol gtt stopped [**3-21**].
   - Increase labetalol to 800mg [**Hospital1 **], still relatively small dose as max
   dose 4g/day
   - HCTZ 25mg daily
   - Continue nifedipine 60mg [**Hospital1 **]
   - no clonidine given that it is not safe when breast feeding
   - Will have pt. f/u w/ me in clinic
   .
   #. UTI: finished course of  cipro today, urine cx contaminated.
   - started cipro per renal recs and now finishing course today.
   .
   #.Normocytic Anemia: Hct actually above recent baseline. Likely [**12-31**] CKD
   as iron studies, B12/folate normal.  [**Month (only) 11**] be slow regeneration after
   being vitamin deficient during pregnancy
   .
   #. Anxiety/Depression: Likely social situation is her biggest problem
   right now as pt. is living with her mother in law  and several of her
   children are living in NH with friends.
   - continue lexapro
   - SW consult for resources
   .
   #. Acute on chronic renal failure: FeNa on admission 4.7 c/w HTN
   nephropathy. Appreciate renal recs who believes increase creatinine is
   due to long standing HTN, pt. has been extensively worked up on prior
   admission without positive findings .  Renal ultrasound was normal on
   this admission as well.  She has outpt. f/u with renal on [**3-31**], will
   need to maintain tight control of her BP to prevent renal failure.
   -appreciate renal recs
   - f/u renin/aldos
   .
   #. Headache: Likely [**12-31**] stress and hypertension as improved w/
   treatment of her HTN. Was essentially resolved morning after admission
   though her BP remained high suggesting that it may be more tension from
   stress than from her HTN. Slight tremor is the only finding on neuro
   exam and CT head/LP were normal. Headache resolved with improvement in
   her BP.
   - Treat BP, goal 120-140
   - Tylenol PRN pain
   .
   #. FEN - Regular diet. low salt
   .
   #. Access - PIV x2
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tylenol
   -ambulate pt
   -PT consult
   .
   #. Code - confirmed full code
   .
   Contact: [**Name (NI) 5525**] [**Name (NI) 5526**] [**Telephone/Fax (1) 5527**] sister, [**Name (NI) 602**] [**Name (NI) 1391**] mother in
   law [**Telephone/Fax (1) 5528**]
   .
   #. Dispo - floor pending HTN controlled w/ POs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-3-21**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: